US05073553
In N,N-dimethylformamide was dissolved 10.0 g of 3-hydroxy-5H-benzofuro[3,2-c]quinolin-6-one, and to the solution were added 28.0 g of epibromohydrin and 5.5 g of potassium carbonate. The mixture was stirred at 55° C. for 3 hours. Into the reaction mixture was poured water, and precipitates were collected by filtration, washed with water, and dried to obtain 11.8 g of 3-(2,3-epoxypropoxy)-5H-benzofuro[3,2-c]quinolin-6-one.

reactant | 3-hydroxy-5H-benzofuro[3,2-c]quinolin-6-one | 10.0 g | OC1=CC=C2C3=C(C(NC2=C1)=O)C1=C(O3)C=CC=C1 | C15H9NO3
reactant | epibromohydrin | 28.0 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2,3-epoxypropoxy)-5H-benzofuro[3,2-c]quinolin-6-one | 11.8 g | O1C(COC2=CC=C3C4=C(C(NC3=C2)=O)C2=C(O4)C=CC=C2)C1 | C18H13NO4
